US03952046
0.976 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 10 ml. of absolute pyridine and reacted with 1.07 g. of chloroformic acid n-heptyl ester as in Example 1. The 1.8 g. of yellow oil obtained according to the procedure described in Example 1 is dissolved in benzene and chromatographed on 90 g. of silica gel. Benzene elutes 1.782 g. of colorless crystals which are recrystallized from ether-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl n-heptyl carbonate obtained melts at 50.2°-50.5° and has a clearing point of 65.2°. UV (EtOH): ε270 = 25,900.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-heptyl ester | C(CCCCCC)OC(=O)Cl | C8H15ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl n-heptyl carbonate | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(OCCCCCCC)=O | C21H23NO3
